US06291457B1
(S)-1-phenyl-N-{4-[2-(2-amino-ethyl)-3-methyl-5-(3-trifluoromethyl-phenyl)-3H-imidazol-4-yl]-pyridin-2-yl}-ethylamine
A solution of (S)-1-phenyl-N-{4-[2-(2-(benzyloxycarbonyl-amino)-ethyl)-3-methyl-5-(3-trifluoromethyl-phenyl)-3H-imidazol-4-yl]-pyridin-2-yl}-ethylamine (0.20 g, 0.33 mmol) in absolute ethanol (10 mL) was flushed with argon before 10% palladium on activated carbon (0.07 g) was added. This reaction mixture, flushed with hydrogen gas, was vigorously stirred under one atmosphere of hydrogen for 5 hrs, then filtered and concentrated. The residue was purified by silica gel chromatography to yield 146 mg of the desired product as an oil.

reactant | (S)-1-phenyl-N-{4-[2-(2-(benzyloxycarbonyl-amino)-ethyl)-3-methyl-5-(3-trifluoromethyl-phenyl)-3H-imidazol-4-yl]-pyridin-2-yl}-ethylamine | 0.33 mmol, 0.20 g | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=C1)C=1N(C(=NC1C1=CC(=CC=C1)C(F)(F)F)CCNC(=O)OCC1=CC=CC=C1)C | C34H32F3N5O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.07 g | [Pd] | Pd
product | (S)-1-phenyl-N-{4-[2-(2-amino-ethyl)-3-methyl-5-(3-trifluoromethyl-phenyl)-3H-imidazol-4-yl]-pyridin-2-yl}-ethylamine | 146 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=C1)C=1N(C(=NC1C1=CC(=CC=C1)C(F)(F)F)CCN)C | C26H26F3N5
